US04357351
1,3-di-n-heptyl-1-N-4-methylthiophenylcarbamyl-2-S-ethyl isothiourea
The equipment was the same as in Example 26 above. 3.0 g (0.01 mole) 1,3-di-n-heptyl-2-S-ethyl isothiourea was mixed with 25 ml of methylene chloride. Two drops of triethylamine and 1 drop of dibutyltindilaurate were added and then 1.65 g (0.01 mole) 4-methyl thiophenyl isocyanate was added. The temperature rose from 23° to 33°. The reaction mixture was then vacuum evaporated to remove the methylene chloride to produce 4.65 g (100 percent of theory yield) of a yellow liquid having a nD30 of 1.5340. The liquid solidified on standing into a semi-solid. The product was identified as the title product by IR and NMR spectra analyses. Compound No. in Table 47 in Table I.

reactant | 1,3-di-n-heptyl-2-S-ethyl isothiourea | 0.01 mole, 3.0 g | C(CCCCCC)NC(SCC)=NCCCCCCC | C17H36N2S
reactant | 4-methyl thiophenyl isocyanate | 0.01 mole, 1.65 g | CC=1C=C(SC1)N=C=O | C6H5NOS
catalyst | triethylamine | Two drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1,3-di-n-heptyl-1-N-4-methylthiophenylcarbamyl-2-S-ethyl isothiourea | C(CCCCCC)N(C(SCC)=NCCCCCCC)C(NC=1SC=C(C1)C)=O | C23H41N3OS2
